US06048856
A mixture of ethyl 4-(4-methylphenyl)-4-piperidine carboxylate (3.0 g, 0.012 mol, prepared similarly as described in the method in Pol. Pat. 105 435 or Ber. 74, 1433 (1941)), 5-(3-bromo-1-propylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (4.50 g, 0.0145 mol), anhydrous potassium carbonate (5.00 g, 0.036 mol) and potassium iodide (4.0 g, 0.024 mol) in 2-butanone (100 ml) was stirred at 80° C. for 7.5 h. The mixture was diluted with ether (150 ml) and water (150 ml) and the layers were separated. The aqueous phase was extracted with additional ether (80 ml) and the combined organic extracts were washed with water (100 ml) and dried (MgSO4). The solvent was removed in vacuo and the oily residue (6.60 g) was purified by gradient column chromatography on silica gel using mixtures of benzene and ethyl acetate as eluents. The benzene/ethyl acetate (9:1) fraction afforded 2.90 g (50%) of 4-(4-methylphenyl)-1-(3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)-4-piperidinecarboxylic acid ethyl ester.

reactant | ethyl 4-(4-methylphenyl)-4-piperidine carboxylate | CC1=CC=C(C=C1)C1(CCNCC1)C(=O)OCC | C15H21NO2
reactant | 5-(3-bromo-1-propylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.0145 mol, 4.50 g | BrCCC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C18H17Br
reactant | potassium carbonate | 0.036 mol, 5.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.024 mol, 4.0 g | [I-].[K+]
solvent | 2-butanone | 100 ml | CC(CC)=O | C4H8O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | water | 150 ml | O | H2O
product | 4-(4-methylphenyl)-1-(3-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-1-propyl)-4-piperidinecarboxylic acid ethyl ester | 2.90 g, 50% | C(C)OC(=O)C1(CCN(CC1)CCC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2)C2=CC=C(C=C2)C | C33H37NO2
